US04058568
Preparation of 6-tert-butyl-1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione.
Hexachlorocyclopentadiene, 40 g., and 15.4 g. of tertbutyl-p-benzoquinone were dissolved in 300 ml. of toluene and refluxed for four hours. The solution solidified upon cooling to room temperature. The solid was washed with methanol and recrystallized from benzene. Yellow crystals were obtained melting at 124°-125° C.

reactant | Hexachlorocyclopentadiene | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | tertbutyl-p-benzoquinone | C(C)(C)(C)C=1C(C=CC(C1)=O)=O | C10H12O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-tert-butyl-1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | C(C)(C)(C)C=1C(C2C3(C(=C(C(C2C(C1)=O)(C3(Cl)Cl)Cl)Cl)Cl)Cl)=O | C15H12Cl6O2
